US05723485
Ethoxymagnesium Diethylmalonate
A mixture of 2.7 ml of ethanol and 0.3 ml of CCl4 is added dropwise to 2.9 g (0.12 mol) of magnesium which has been degreased with ether. 41 ml of anhydrous ether are introduced dropwise, followed by 20 g (0.125 mol) of ethyl malonate, the solvents being kept at the reflux point without heating. When the addition has ended, the mixture is refluxed for 5 h until the magnesium has completely disappeared.

reactant | ethanol | 2.7 ml | C(C)O | C2H6O
reactant | CCl4 | 0.3 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | magnesium | 0.12 mol, 2.9 g | [Mg] | Mg
reactant | ethyl malonate | 0.125 mol, 20 g | C(CC(=O)[O-])(=O)OCC
reactant | ether | 41 ml | CCOCC | C4H10O
product | Ethoxymagnesium Diethylmalonate | C(C)C(C(=O)[O-])(C(=O)[O-])CC.C(C)O[Mg+2] | InChI=1S/C7H12O4.C2H5O.Mg/c1-3-7(4-2,5(8)9)6(10)11;1-2-3;/h3-4H2,1-2H3,(H,8,9)(H,10,11);2H2,1H3;/q;-1;+3/p-2
